US08835627B2
N-[2-(3,4-dimethoxyphenyl)ethyl]-2,2,2-trifluoroacetamide
To a solution of 2-(3,4-dimethoxyphenyl)ethanamine (50 g, 276 mmoles) in 350 mL of ethyl acetate stirred at ambient temperature there is added, dropwise, a solution of trifluoroacetic anhydride (46.1 mL, 330 mmoles) in 40 mL of ethyl acetate. After being in contact for 1 hour at ambient temperature, the mixture is hydrolysed using 100 mL of water. The organic phase is washed with a mixture of water/triethylamine (100 mL/38.5 mL), and 100 mL of saturated aqueous NaCl solution and is then dried over MgSO4 and subjected to drying to obtain 65.8 g of a beige solid corresponding to the title compound.

reactant | 2-(3,4-dimethoxyphenyl)ethanamine | 276 mmoles, 50 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | trifluoroacetic anhydride | 330 mmoles, 46.1 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 100 mL | O | H2O
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-2,2,2-trifluoroacetamide | 65.8 g, Yield: 86% | COC=1C=C(C=CC1OC)CCNC(C(F)(F)F)=O | C12H14F3NO3
